US05093353
diethyl 3,4-dihydro-4-oxo-7-hydroxy-8-propyl-2H-1-benzopyran-2,2-dipropanoate
A stirred solution of 12.3 g (53.5 mmol) of diethyl 4-oxopimelate, 10.4 g (53.5 mmol) of 2,4-dihydroxy-3-propylacetophenone, and 3.8 g (55 mmol) of pyrrolidine in 62 ml of toluene was refluxed under a water separator. After 4 hours, the mixture was allowed to cool. The solvent was removed under reduced pressure and the resultant oil was chromatographed on silica gel using ethyl acetate-hexane as eluent. The titled diester (4.98 g) was found to be homogeneous by thin-layer chromatography (20% by volume ethyl acetate/hexane on silica gel plates) and was used in subsequent reactions without further purification.

reactant | diethyl 4-oxopimelate | 53.5 mmol, 12.3 g | O=C(CCC(=O)OCC)CCC(=O)OCC | C11H18O5
reactant | 2,4-dihydroxy-3-propylacetophenone | 53.5 mmol, 10.4 g | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
reactant | pyrrolidine | 55 mmol, 3.8 g | N1CCCC1 | C4H9N
solvent | toluene | 62 ml | C1(=CC=CC=C1)C | C7H8
product | diethyl 3,4-dihydro-4-oxo-7-hydroxy-8-propyl-2H-1-benzopyran-2,2-dipropanoate | O=C1CC(OC2=C1C=CC(=C2CCC)O)(CCC(=O)OCC)CCC(=O)OCC | C22H30O7
